US04695578
(ii) 1,2,3,9-Tetrahydro-9-methyl-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one
A solution of 3-(chloromethyl)-1,2,3,9-tetrahydro-9-methyl-4H-carbazol-4-one (0.50 g) and 2-methyl-1H-imidazole (1.60 g) in dry DMF was stirred under nitrogen at 90° for 3.75 h, and then poured onto water (25 ml). The suspension was stirred for 1 h, and the solid filtered off, washed with water (3×20 ml) and dried in vacuo at 50°. Column chromatography of this solid (0.53 g) eluting with a mixture of dichloromethane, ethanol and 0.88 aqueous ammonia (150:10:1) afforded the title compound (0.45 g) m.p. 228°-229°. This material was identical to the product from Example 7 by t.l.c. and n.m.r.

reactant | 3-(chloromethyl)-1,2,3,9-tetrahydro-9-methyl-4H-carbazol-4-one | 0.50 g | ClCC1CCC=2N(C3=CC=CC=C3C2C1=O)C | C14H14ClNO
reactant | 2-methyl-1H-imidazole | 1.60 g | CC=1NC=CN1 | C4H6N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1,2,3,9-Tetrahydro-9-methyl-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one | 0.45 g | CN1C2=CC=CC=C2C=2C(C(CCC12)CN1C(=NC=C1)C)=O | C18H19N3O
